US07683185B2
4-Dimethylamino-benzenethiol (20).
To a stirred solution of 4-(N,N-dimethylamino)phenyl disulfide (0.855 g, 2.81 mmol) in a mixture of dioxane (10 mL) and demineralised water (2.5 mL) at 20° C. was added tri-n-butylphosphine (0.75 mL, 2.89 mmol). After stirring at 20° C. for 30 minutes, the mixture was concentrated under reduced pressure. The residue was dried by co-evaporation with toluene (3×10 mL) to afford a clear oil containing the title compound (2.81 mmol) which was used without any further purification.

reactant | 4-(N,N-dimethylamino)phenyl disulfide | 2.81 mmol, 0.855 g | CN(C)C1=CC=C(C=C1)SSC1=CC=C(C=C1)N(C)C | C16H20N2S2
reactant | water | 2.5 mL | O | H2O
reactant | tri-n-butylphosphine | 2.89 mmol, 0.75 mL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-Dimethylamino-benzenethiol | 2.81 mmol | CN(C1=CC=C(C=C1)S)C | C8H11NS
